US07485643B2
Step A: Preparation of 2-(2-chlorophenylamino)-3,4-difluoro-6-styryl-benzoic acid methyl ester:
Pd(PPh3)4 (0.313 g, 0.271 mmol) and trans-2-phenylvinylboronic acid (1.105 g, 7.468 mmol) were added to a mixture of 6-bromo-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester (2.00 g, 5.31 mmol) in 35 mL DME and 8 mL 2.0 M aqueous K2CO3 solution. The reaction mixture was heated under a N2 atmosphere to 90° C. and stirred for 16 hours. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate and water and the layers separated. The organic layer was dried (MgSO4) and concentrated under reduced pressure. Purification by flash column chromatography gave 1.20 g (56%) clean desired product.

reactant | trans-2-phenylvinylboronic acid | 7.468 mmol, 1.105 g | C1(=CC=CC=C1)/C=C/B(O)O | C8H9BO2
reactant | 6-bromo-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester | 5.31 mmol, 2.00 g | COC(C1=C(C(=C(C=C1Br)F)F)NC1=C(C=CC=C1)Cl)=O | C14H9BrClF2NO2
solvent | DME | 35 mL | COCCOC | C4H10O2
solvent | K2CO3 | 2.0 M, 8 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.271 mmol, 0.313 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-chlorophenylamino)-3,4-difluoro-6-styryl-benzoic acid methyl ester | 1.20 g, 56% | COC(C1=C(C(=C(C=C1C=CC1=CC=CC=C1)F)F)NC1=C(C=CC=C1)Cl)=O | C22H16ClF2NO2
